US07361763B2
A mixture of 2-(5-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-yl)thiazole (75 mg, 0.17 mmol), pyridine-3-ylboronic acid (27 mg, 0.22 mmol) 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (6.9 mg, 0.009 mmol), acetonitrile (1 mL) and saturated aqueous NaHCO3 (1 mL) were stirred in a sealed microwave tube at 140° C. for 30 minutes. The mixture was then cooled to room temperature, diluted with ethyl acetate, washed with brine and concentrated to dryness. Silica gel chromatography afforded 2-(5-(pyridine-3-yl)-1H-pyrrolo[2,3-b]pyridine-3-yl)thiazole (36 mg, 76% yield) as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 7.47 (m, 1H), 7.56 (d, J=3.5 Hz, 1H), 7.81 (d, J=3.5 Hz, 1H), 8.10 (m, 1H), 8.24 (s, 1H), 8.55 (dd, J=2.0, 5.0 Hz, 1H), 8.61 (d, J=2.5 Hz, 1H), (d, J=2.0 Hz, 1H), 8.89 (m, 1H), 12.37 (s, 1H). MS: m/z 279.0 (M+H+)

reactant | 2-(5-bromo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-yl)thiazole | 0.17 mmol, 75 mg | BrC=1C=C2C(=NC1)N(C=C2C=2SC=CN2)S(=O)(=O)C2=CC=C(C)C=C2 | C17H12BrN3O2S2
reactant | pyridine-3-ylboronic acid | 0.22 mmol, 27 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-(pyridine-3-yl)-1H-pyrrolo[2,3-b]pyridine-3-yl)thiazole | 36 mg, 76% yield | N1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C=2SC=CN2 | C15H10N4S
